US07498353B2
tert-Butyl 2-(3-(3-(2,6-dichlorophenyl)isoxazol-5-yl)phenylamino)-2-oxoethylcarbamate (500 mg, 1.08 mmol) was dissolved in anhydrous tetrahydrofuran (10 mL) and cooled to 0° C. Borane-tetrahydrofuran complex (1M soln in THF, 10.8 mL, 10.8 mmol) was added dropwise to the cool solution. The reaction mixture was allowed to stir while slowly warming to room temperature for 5 h. The reaction was quenched with 1N hydrochloric acid (25 mL) and extracted with ethyl acetate. The organic layer was concentrated under reduced pressure to yield tert-butyl 2-(3-(3-(2,6-dichlorophenyl)isoxazol-5-yl)phenylamino)ethylcarbamate as a white solid. The product was carried forward without further purification. 1H NMR (CDCl3): 7.98 (s, 1H), 7.55-7.50 (m, 2H), 7.48-7.35 (m, 4H), 6.48 (s, 1H), 5.18 (br s, 1H), 4.00 (m, 2H), 3.58 (m, 2H), 1.48 ppm (s, 9H).

reactant | tert-Butyl 2-(3-(3-(2,6-dichlorophenyl)isoxazol-5-yl)phenylamino)-2-oxoethylcarbamate | 1.08 mmol, 500 mg | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1)C=1C=C(C=CC1)NC(CNC(OC(C)(C)C)=O)=O | C22H21Cl2N3O4
reactant | Borane tetrahydrofuran | 10.8 mmol, 1M, 10.8 mL | B.O1CCCC1
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | tert-butyl 2-(3-(3-(2,6-dichlorophenyl)isoxazol-5-yl)phenylamino)ethylcarbamate | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1)C=1C=C(C=CC1)NCCNC(OC(C)(C)C)=O | C22H23Cl2N3O3
